US04060526
Preparation of 2-[2-(4-phenethyl-1-piperazinyl)ethylamino]benzamide hydrochloride. (763-463)
A mixture of 13.6 g anthranilamide, 34.5 g 4-phenethylpiperazinoethyl chloride dihydrochloride, 17.5 g sodium acetate, and 50 ml water was refluxed for 24 hours, 50 ml water and 50 m/NH4OH was added and the mixture cooled. The liquid was decanted and the oily solid dissolved in 100 ml propanol, 200 ml water added and the solid filtered. The solid was dissolved in 2 liters of dry ether, acidified with dry HCl gas and filtered. The HCl salt was recrystallized from propanol to give 9.2 g product.

reactant | anthranilamide | 13.6 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | 4-phenethylpiperazinoethyl chloride dihydrochloride | 34.5 g | Cl.Cl.C(CC1=CC=CC=C1)N1CCN(CC1)CCCl
reactant | sodium acetate | 17.5 g | C(C)(=O)[O-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-[2-(4-phenethyl-1-piperazinyl)ethylamino]benzamide hydrochloride | 9.2 g | Cl.C(CC1=CC=CC=C1)N1CCN(CC1)CCNC1=C(C(=O)N)C=CC=C1 | InChI=1S/C21H28N4O.ClH/c22-21(26)19-8-4-5-9-20(19)23-11-13-25-16-14-24(15-17-25)12-10-18-6-2-1-3-7-18;/h1-9,23H,10-17H2,(H2,22,26);1H
